US05250517
A solution of 100 mg of ethyl (R)-3-[[(S)-1-[[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]-4-phenylbutyrate in 30 ml of methanol was saturated with ammonia for 1-2 minutes and subsequently left to stand at room temperature for 12 hours. Thereafter, the solvent was removed under reduced pressure and the residue was chromatographed on silica gel with 10% methanol in methylene chloride as the eluting agent, to obtain 63 mg (66%) of (S)-α-[(R)-α-(carbamoylmethyl)hydrocinnam-amido]-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]imidazole-4-propionamide as a resin. MS: 580 (M+H)+.

reactant | ethyl (R)-3-[[(S)-1-[[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]-4-phenylbutyrate | 100 mg | C1(CCCCC1)C[C@@H]([C@H](C[C@H](C=C)C(C)C)O)NC(=O)[C@H](CC=1N=CNC1)NC(=O)[C@@H](CC(=O)OCC)CC1=CC=CC=C1 | C35H52N4O5
reactant | ammonia | N | H3N
solvent | methanol | 30 ml | CO | CH4O
product | (S)-α-[(R)-α-(carbamoylmethyl)hydrocinnam-amido]-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]imidazole-4-propionamide | 63 mg, 66% | C(N)(=O)C[C@H](C(=O)N[C@H](C(=O)N[C@H]([C@H](C[C@H](C=C)C(C)C)O)CC1CCCCC1)CC=1N=CNC1)CC1=CC=CC=C1 | C33H49N5O4
